Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ampicillin / Keflex / Nsaids / Ketamine
 
Attending: ___
 
Chief Complaint:
Shortness of breath  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F PMH HTN, sleep apnea recent hemithyroidectomy ___ 
who presents with shortness of breath on exertion of 4 days 
duration. She is only able to walk to the bathroom before 
getting SOB, prior to this no DOE. It is worse lying flat and 
describes new orthopnea (3 pillows) - last night she had to 
sleep upright in a recliner. Denies PND or lower extremity 
edema. Denies chest pain. Denies recent viral illness, cough or 
fever. Denies new medications or taking ibuprofen. No recent 
travel. No wheezing or stridor. No difficulty swallowing. Prior 
to this was feeling her usual state of health.  
  
Today patient presented to ED at Mass Eye and Ear where her 
surgery was preformed and intital DOE work-up was done with - 
negative troponins, d-dimer and CXR. Laryngeal endoscopy 
demonstrated no abnormalities ("excellent airway"). Records from 
this visit were reviewed and in the chart. With negative work-up 
but continued symptoms patient was referred to ___ ED 
following discussion with her pcp.  
  
In the ED initial vitals were: 96.4, HR 82, BP 148/80, RR 16, 
100% RA. O2 ranged 94 RA - 97 2 L. No lab abnormalities. Patient 
was given ASA and tylenol. CTA revealed no PE, no PNA and small 
hematoma in the postthyroidectomy bed. Work up non-revealing for 
SOB consequently admitted to the medical floor for further 
work-up. Vitals on transfer were T 96, HR 71, BP 110/68, RR 14, 
97 2L.  
  
On the floor patient wearing CPAP. Has no active compliants.  

 
Past Medical History:
HTN, now resolved
OSA on CPAP
h/o UC, last flare ___ years ago
hypercholesterolemia
GERD, s/p fundoplication
s/p hysterectomy and salpingo-oophorectomy
s/p R knee arthroscopy for meniscus and degenerative arthritis
previous history of CT chest with ground glass opacities, now 
resolved
 
Social History:
___
Family History:
Mother with HTN and bladder CA and COPD
Father with esophageal CA and laryngectomy, MI in ___
Daughter with breast cancer
 
Physical Exam:
VS: 96.6 BP 115/79 HR 75 RR 18 96 2L Pulsus: 5, repeat 8.  
Gen: NAD. Oriented x3. Mood, affect appropriate. No stridor.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa.  
Neck: No stridor. Elevated JVP - but difficult to assess due to 
body habitus. Midline surgical scar healing well.  
CV: Mildly decreased heart sounds most likely due to body 
habitus. S1, S2. No m/r/g. No thrills, lifts. No S3 or S4. No 
rubs.  
Chest: CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness.  
Ext: No c/c/e.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
Admission Labs:
___ 06:40PM BLOOD WBC-4.9 RBC-5.37 Hgb-15.4 Hct-43.0 
MCV-80*# MCH-28.6 MCHC-35.8* RDW-13.3 Plt ___
___ 06:40PM BLOOD ___ PTT-22.2 ___
___ 06:40PM BLOOD Glucose-105* UreaN-15 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-26 AnGap-15
___ 06:40PM BLOOD Calcium-10.2 Phos-3.6 Mg-2.3
___ 07:57PM BLOOD D-Dimer-250

Cardiac Biomarkers:
___ 06:40PM BLOOD CK(CPK)-78
___ 03:00AM BLOOD CK(CPK)-60
___ 11:05AM BLOOD CK(CPK)-66
___ 06:40PM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-25
___ 03:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:05AM BLOOD CK-MB-2 cTropnT-<0.01

Miscellaneous:
___ 03:00AM BLOOD T4-7.5
___ 07:57PM BLOOD D-Dimer-250

Studies:
ECG Study Date of ___  6:28:28 ___ 
Sinus rhythm. Normal tracing. Compared to the previous tracing 
of ___ 
the rate is slower. 

CHEST (PA & LAT) Study Date of ___ 7:06 ___ 
IMPRESSION: No acute intrathoracic process

CTA CHEST W&W/O C&RECONS, NON-CORONARY Study Date of ___ 
7:57 ___ 
IMPRESSION: No pulmonary embolism or evidence of pneumonia. No 
findings to 
explain patient's symptoms. 

TTE (Complete) Done ___ at 9:42:44 AM      FINAL 
Conclusions  
The left atrium is mildly dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 70%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

Compared with the findings of the prior study (images reviewed) 
of ___, the findings are similar.   

CHEST (SINGLE VIEW) Study Date of ___ 12:05 ___ 
FINDINGS: Films in inspiration and expiration demonstrate 
movement of the 
hemidiaphragms bilaterally. The colon appears mildly distended 
measuring up to 7 cm. An ileus may be present. 

 
Brief Hospital Course:
___ y/o F HTN, OSA s/p hemithyroidectomy who presents with DOE 
and orthopnea of 4 days duration.  
  
#. Dyspnea on exertion: In the setting of orthopnea and DOE her 
presentation was concerning for a number of etiologies including 
heart failure, MI, and pericardial effusion. Also, of concern 
was airway compromise given her recent surgery and PE. Finally, 
slow clearance of paralytics for anesthesia and underlying 
myopathy were considered and were thought to warrant further 
evaluation as an outpatient. At the OSH ED she had an evaluation 
with laryngoscopy that showed no airway compromise and movement 
of her vocal cords.

During admission, she was monitored on telemetry without event, 
and had multiple normal EKGs. Her CEs were negative and an echo 
was unchanged from prior with normal ventricular function. In 
the ED a CTA ruled out PE. The CTA also showed a superficial 
hematoma at the surgical site, not thought to be causing airway 
compression. 

Given the history of her surgery, inspiratory and expiratory 
x-rays were taken to evaluate for diaphragmatic excursion. There 
was no evidence of hemi, or bilateral paralysis based on these 
studies. Respiratory therapy evaluated her on consecutive days 
and their results were as follows: 
O2 saturation: on RA 93-99%. 
Negative inspiratory pressure: ___ upright, -60, supine, 
-38. ___ upright -60, supine -45.
FVC: ___ upright, 2.4, supine 1.8. ___ upright, 2.3, 
supine, 1.9.

Throughout her hospitalization, she had symptoms of increased 
work of breathing while lying flat, and dyspnea on exertion. She 
was not hypoxic in any position, and her physical exam was 
normal. 

Given the discrepancy of her NIP while upright and supine, 
further evaluation as an outpatient is warranted. Dr. ___ 
PCP, was aware of the work-up that we did while an inpatient, 
and will follow her closely as an outpatient to further work up 
this problem. She was scheduled for follow-up on ___.
  
# Partial thyroidectomy: Normal laryngeal endoscopy day of 
admission and with small post-op hematoma seen on CTA. Surgical 
excision appeared to be healing well.   
  
# Sleep apnea: She used CPAP while in the hospital, and felt as 
though this helped her symptoms the mornings after use. The 
first night she was unable to use the machine, and felt a 
difference in symptoms after being able to use it the second 
night.

# Hypertension: She was normotensive throughout admission. She 
was continued on HCTZ and Losartan.  
  
# GERD: Stable throughout admission. Continued omeprazole and 
Zantac.    
  
# Arthritis: Stable during admission. She was continued on 
Plaquenil.  

 
Medications on Admission:
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 Tablet(s) by mouth once a 
 
day  
HYDROXYCHLOROQUINE [PLAQUENIL] - 200 mg Tablet - 1 tab Tablet(s) 
 
by mouth twice a day no substitution - No Substitution  
LOSARTAN - 25 mg Tablet - 1 Tablet(s) by mouth once a day  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 (One)  
Capsule(s) by mouth once a day  
Ambien CR 12.5 mg  
Zantac 150 mg qhs  

 
Discharge Medications:
1. losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. Ambien CR 12.5 mg Tablet,Ext Release Multiphase Sig: One (1) 
Tablet,Ext Release Multiphase PO prn qhs () as needed for 
insomnia.  
5. Plaquenil 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
subacute dyspnea on exertion of unclear etiology
Secondary:
status post hemithyroidectomy ___
irritable bowel syndrome
hypertension
obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking part in your care. You were admitted to 
___ for shortness of breath while walking, and lying down 
flat. 

You had a work-up that included imaging and blood tests that 
were negative for pulmonary embolism, pericardial effusion, 
pneumonia, and heart attack. We did x-rays that showed that you 
did not have paralysis of your diaphragm. 

An echocardiogram was done and showed normal function of your 
heart and no pericardial effusion. Your oxygen was stable at 
97-99% on RA while lying flat and walking. You had points where 
your oxygen decreased to 93% on room air, but rebounded with big 
breaths.

You had Pulmonary tests that showed a maximum inspiratory 
pressure of -60cm H2O upright and -38cm H2O supine and a forced 
vital capacity of 2.4L when upright and 1.8L while supine on 
___. These were repeated on ___ and the results were: 
-60cm H2O upright and -45cm H2O supine and a forced vital 
capacity of 2.3L when upright and 1.9L while supine.

We did not make any changes to your medications.

Please follow-up at the appointments below. 

A follow-up appointment with neurology will be made on ___.

Please take all of your medications as prescribed.
 
Followup Instructions:
___